US04159273
(a) 5,6,7,8-Tetrahydro-3-acetyl-1-formyl-2-naphthol
To a solution of 5,6,7,8-tetrahydro-3-acetyl-2-naphthol (9.5 g) in dry dichloromethane (50 ml), cooled in an ice bath, was added titanium tetrachloride (38 g) over a period of three minutes. After fifteen minutes stirring dichloromethyl methyl ether (8.05 g) was added over a period of five minutes. The mixture was retained in the ice bath for a further ten minutes, then stirred without cooling for thirty minutes, and finally warmed to 35° for twenty minutes.

reactant | 5,6,7,8-tetrahydro-3-acetyl-2-naphthol | 9.5 g | C(C)(=O)C=1C(=CC=2CCCCC2C1)O | C12H14O2
reactant | dichloromethyl methyl ether | 8.05 g | COC(Cl)Cl | C2H4Cl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 38 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5,6,7,8-Tetrahydro-3-acetyl-1-formyl-2-naphthol | C(C)(=O)C=1C(=C(C=2CCCCC2C1)C=O)O | C13H14O3
